US06706423B2
A solution of dry o-dichlorobenzene containing 2-phenylindole (1 mmole) was added K2CO3 (1.5 mmole), 4-iodotoluene (1 mmole), copper powder (1.5 mmole) and 18-crown-6 (0.02 mmole), the reaction mixture was stirred under argon at 185° C. overnight. After cooling to room temperature, the reaction mixture was washed with hexane. The solid mixture was dissolved in EA, the K2CO3 and copper powder was removed by filtration. EA solution was evaporated under reduced pressure to give brown-red crude solid. Further purification by column chromatography on silica gel with hexane as an eluent gave a pale yellow solid of 1,2-diphenylindole (75% yield). The solid product (1 mmole) was dissolved in DMF (10 ml), a mixture of POCl3 (1.2 mmole) and DMF (1.2 mmole) was added dropwise. After stirring at 75° C. for 1 h, the reaction mixture was added into saturate NaHCO3 solution. The precipitated solid was collected by filtration and washed with ethanol to give a pale gray solid of 1,2-diphenylindole-3-carboxaldehyde (90% yield). A dry DMF solution of the aldehyde (2 mmole) was added o-aminothiophenol (2.1 mmole) and Ac2O (0.5 ml) at room temperature. The mixture was stirred at 60° C. for 3 h. The reaction mixture was poured into stirred water and the precipitated solid was collected by filtration. The crude solid was washed with MeOH and recrystallized from benzene to afford compound 1-4(32% yield). 1H-NMR (CDCl3, TMS) δ(ppm)=2.4 (s, 3H, Ar—CH3), 7.1-7.6, 8.2 (m, d, 17H, aromatic H).

reactant | 2-phenylindole | 1 mmole | C1(=CC=CC=C1)C=1NC2=CC=CC=C2C1 | C14H11N
reactant | K2CO3 | 1.5 mmole | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-iodotoluene | 1 mmole | IC1=CC=C(C=C1)C | C7H7I
reactant | 18-crown-6 | 0.02 mmole | C1COCCOCCOCCOCCOCCO1 | C12H24O6
catalyst | copper | 1.5 mmole | [Cu] | Cu
solvent | o-dichlorobenzene | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 1,2-diphenylindole | 75% yield | C1(=CC=CC=C1)N1C(=CC2=CC=CC=C12)C1=CC=CC=C1 | C20H15N
